**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:    Visible THT LED 
* Matchcode:          WL-TMRW THT Mono-color Round Waterclear
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  3mm_151033BS03000  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4891
+ RS=11.944
+ IKF=6.5733
+ CJO=0.000000000045759
+ M=0.26352
+ VJ=3.33
.ends
******
.subckt  3mm_151033GS03000  1  2
D1 1 2 led
.MODEL led D
+ IS=1.3096E-12
+ N=4.9950
+ RS=10.695
+ IKF=999
+ CJO=8.8452E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  3mm_151033RS03000  1  2
D1 1 2 led
.MODEL led D
+ IS=3.7993E-9
+ N=4.9950
+ RS=3.5090
+ IKF=999
+ CJO=3.8903E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  3mm_151033YS03000  1  2
D1 1 2 led
.MODEL led D
+ IS=3.0472E-9
+ N=4.9950
+ RS=2.2105
+ IKF=999
+ CJO=3.3876E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  3mm_151034GS03000  1  2
D1 1 2 led
.MODEL led D
+ IS=0.0000000000001064
+ N=4.4317
+ RS=10.239
+ IKF=0.018015
+ CJO=0.000000000033188
+ M=0.10616
+ VJ=0.52002
.ends
******

.subckt  3mm_151034RS03000  1  2
D1 1 2 led
.MODEL led D
+ IS=4.1067E-9
+ N=4.9950
+ RS=1.8955
+ IKF=999
+ CJO=5.3959E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  3mm_151034RS03099  1  2
D1 1 2 led
.MODEL led D
+ IS=2.7212E-9
+ N=4.9950
+ RS=4.3714
+ IKF=999
+ CJO=3.4567E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  3mm_151034YS03000  1  2
D1 1 2 led
.MODEL led D
+ IS=2.5292E-9
+ N=4.9950
+ RS=2.3705
+ IKF=999
+ CJO=3.3191E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  5mm_151053BS04500  1  2
D1 1 2 led
.MODEL led D
+ IS=8.4754E-12
+ N=4.9950
+ RS=9.7622
+ IKF=999
+ CJO=755.37E-12
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  5mm_151053GS03000  1  2
D1 1 2 led
.MODEL led D
+ IS=2.5879E-12
+ N=4.9950
+ RS=4.2285
+ IKF=999
+ CJO=4.1216E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  5mm_151053RS03000  1  2
D1 1 2 led
.MODEL led D
+ IS=0.00000000000051614
+ N=4.7554
+ RS=7.4837
+ IKF=0.010945
+ CJO=0.000000000029689
+ M=0.3005
+ VJ=6.9518
.ends
******

.subckt  5mm_151053YS04500  1  2
D1 1 2 led
.MODEL led D
+ IS=3.2438E-9
+ N=4.9950
+ RS=2.2483
+ IKF=999
+ CJO=3.3493E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  5mm_151054BS04500  1  2
D1 1 2 led
.MODEL led D
+ IS=11.895E-12
+ N=4.9950
+ RS=10.850
+ IKF=999
+ CJO=759.59E-12
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  5mm_151054GS03000  1  2
D1 1 2 led
.MODEL led D
+ IS=1.4544E-12
+ N=4.9950
+ RS=10.975
+ IKF=999
+ CJO=4.5359E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  5mm_151054GS03099  1  2
D1 1 2 led
.MODEL led D
+ IS=583.06E-15
+ N=4.9950
+ RS=11.351
+ IKF=999
+ CJO=4.1317E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  5mm_151054RS01500  1  2
D1 1 2 led
.MODEL led D
+ IS=3.8212E-9
+ N=4.9950
+ RS=3.6029
+ IKF=999
+ CJO=3.3237E-9
+ M=.1001
+ VJ=9.9900
.ends
*******
.subckt  5mm_151054RS01599  1  2
D1 1 2 led
.MODEL led D
+ IS=1.6965E-9
+ N=4.9950
+ RS=6.5329
+ IKF=999
+ CJO=3.1250E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  5mm_151054RS03000  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.7689
+ RS=4.3098
+ IKF=7.7672
+ CJO=0.0000000000054064
+ M=0.1666
+ VJ=1.8259
.ends
******
.subckt  5mm_151054RS03099  1  2
D1 1 2 led
.MODEL led D
+ IS=5.9112E-9
+ N=4.9950
+ RS=1.1380
+ IKF=999
+ CJO=264.96E-12
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  5mm_151054YS01599  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.8053
+ RS=5.0526
+ IKF=9.8339
+ CJO=0.00000000001646
+ M=0.23332
+ VJ=1.0618
.ends
******
.subckt  5mm_151054YS04500  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.8246
+ RS=4.8981
+ IKF=11.235
+ CJO=0.000000000012974
+ M=0.31675
+ VJ=1.265
.ends
******
.subckt  3mm_151034BS03000  1  2
D1 1 2 led
.MODEL led D
+ IS=245.05E-18
+ N=2.9203
+ RS=1.1257
+ IKF=135.14E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******




























